US07723330B2
Step C: Preparation of N-(4-(3-(1,4-diazepan-1-yl)-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide:
A round-bottomed flask was charged with tert-butyl 4-(1-(4-methoxybenzyl)-4-(2-fluoro-4-(1-(4-fluorophenyl)-6-oxo-1,6-dihydropyridazine-5-carboxamido)phenoxy)-1H-pyrazolo[3,4-b]pyridin-3-yl)-1,4-diazepane-1-carboxylate (118.3 mg, 0.1519 mmol), 2,2,2-trifluoroacetic acid (346.4 mg, 3.038 mmol) and CH2Cl2 (10 mL). The reaction mixture was stirred at room temperature for one hour. The solvent was removed and the residue was purified by silica gel chromatography (DCM/7 M NH3 in MeOH from 50/1 to 10/1, v/v) to give product (60.7 mg, 58.88%). LRMS (APCI pos): m/e 679 (M+1).

reactant | tert-butyl 4-(1-(4-methoxybenzyl)-4-(2-fluoro-4-(1-(4-fluorophenyl)-6-oxo-1,6-dihydropyridazine-5-carboxamido)phenoxy)-1H-pyrazolo[3,4-b]pyridin-3-yl)-1,4-diazepane-1-carboxylate | 0.1519 mmol, 118.3 mg | COC1=CC=C(CN2N=C(C=3C2=NC=CC3OC3=C(C=C(C=C3)NC(=O)C3=CC=NN(C3=O)C3=CC=C(C=C3)F)F)N3CCN(CCC3)C(=O)OC(C)(C)C)C=C1 | C41H40F2N8O6
reactant | 2,2,2-trifluoroacetic acid | 3.038 mmol, 346.4 mg | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(4-(3-(1,4-diazepan-1-yl)-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide | 60.7 mg, 58.88% | N1(CCNCCC1)C1=NN(C2=NC=CC(=C21)OC2=C(C=C(C=C2)NC(=O)C=2C(N(N=CC2)C2=CC=C(C=C2)F)=O)F)CC2=CC=C(C=C2)OC | C36H32F2N8O4
